US06352839B1
35-11: Ethyl (RS)-N-acetyl-3-dimethylaminophenylalaninate
4 g of ethyl (RS)-N-acetyl-3-aminophenylalaninate, prepared as described in Example 35-8, in 15 ml of DMF are placed in a three-necked flask under a nitrogen atmosphere, and 5.5 ml of triethylamine, and then 2.5 ml of methyl iodide and 4 ml of dichloromethane, are added while maintaining the temperature in the region of 30° C. using an icebath. The mixture is then warmed at 35° C. for 18 h. 1 ml of methyl iodide dissolved in 1 ml of DMF is then added slowly while maintaining the temperature in the region of 30° C.; 2.2 ml of triethylamine are then added and the mixture is subsequently warmed for a further 5 h at 35° C. The mixture is brought to room temperature and then extracted with 100 ml of ethyl acetate and 150 ml of distilled water. The aqueous phase is separated off after settling and then rewashed with 2 times 70 ml of ethyl acetate. The organic phases are combined, washed with 2 times 80 ml of distilled water and then with 50 ml of distilled water which is saturated with NaCl. The organic phase is separated off after settling, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure in order to yield 2.4 g of a product which is purified by flash chromatography (dichloromethane, MeOH 90/10). 0.72 g (16%) of ethyl (RS)-3-N-acetyl-3-dimethylamino phenylalaninate is thus obtained in the form of yellow crystals.

reactant | ethyl (RS)-N-acetyl-3-aminophenylalaninate | 4 g | C(C)(=O)NC(CC1=CC(=CC=C1)N)C(=O)OCC | C13H18N2O3
reactant | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 2.5 ml | CI | CH3I
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
reactant | methyl iodide | 1 ml | CI | CH3I
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | Ethyl (RS)-N-acetyl-3-dimethylaminophenylalaninate | 2.4 g | C(C)(=O)NC(CC1=CC(=CC=C1)N(C)C)C(=O)OCC | C15H22N2O3
